US05296493
A mixture of 1-benzyl-imidazole (5 g, 32 mmol), formaldehyde 37% (10 ml, 134 mmol) and sodium hydroxide (100 mg) is refluxed for 7 days and is extracted with ethylacetate. Concentration in vacuo yields 1-benzyl-2-hydroxymethyl-imidazole.

reactant | 1-benzyl-imidazole | 32 mmol, 5 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | formaldehyde | 134 mmol, 10 ml | C=O | CH2O
reactant | sodium hydroxide | 100 mg | [OH-].[Na+]
product | 1-benzyl-2-hydroxymethyl-imidazole | C(C1=CC=CC=C1)N1C(=NC=C1)CO | C11H12N2O
